US07700591B2
To a cooled (−78° C.) solution of 1.5M LDA/cyclohexane (6.48 mL, 9.73 mmol) in 50 mL of THF was added dropwise under a nitrogen atmosphere a solution of tert-butyl 4-[3-(benzyloxy)-3-oxopropyl]piperidine-1-carboxylate (2.60 g, 7.48 mmol) in 20 mL of THF. The resulting mixture was stirred at −78° C. for 45 min then was treated dropwise with neat iodomethane (1.40 mL, 22.4 mmol). After stirring at −78° C. for an additional 30 min, the reaction mixture was permitted to warm to rt and stir overnight. The reaction mixture was diluted with ether and washed in sequence with 1N HCl solution, saturated NaHCO3 solution, and brine. The ethereal layer was dried over anhydrous MgSO4, filtered, and concentrated. Purification by MPLC (silica, 25% ethyl acetate/hexanes) afforded tert-butyl 4-[3-(benzyloxy)-2-methyl-3-oxopropyl]piperidine-1-carboxylate.

reactant | LDA cyclohexane | 9.73 mmol, 1.5M, 6.48 mL | [Li+].CC(C)[N-]C(C)C.C1CCCCC1
reactant | tert-butyl 4-[3-(benzyloxy)-3-oxopropyl]piperidine-1-carboxylate | 7.48 mmol, 2.60 g | C(C1=CC=CC=C1)OC(CCC1CCN(CC1)C(=O)OC(C)(C)C)=O | C20H29NO4
reactant | iodomethane | 22.4 mmol, 1.40 mL | IC | CH3I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | tert-butyl 4-[3-(benzyloxy)-2-methyl-3-oxopropyl]piperidine-1-carboxylate | C(C1=CC=CC=C1)OC(C(CC1CCN(CC1)C(=O)OC(C)(C)C)C)=O | C21H31NO4
